US04171446
4-(2,3-Epoxypropoxy)-indazole
1-Acetyl-4-(2,3-epoxypropoxy)-indazole is stirred for 4 hours in a mixture of methylene chloride and liquid ammonia, using a solid carbon dioxide cooler. The reaction mixture is then evaporated in a vacuum to give a brownish oil which is pure enough for further reactions. By stirring with water, there is obtained a beige product which melts at about 60° C. (after melting, it again solidifies and then melts again at <260° C.).

reactant | 1-Acetyl-4-(2,3-epoxypropoxy)-indazole | C(C)(=O)N1N=CC2=C(C=CC=C12)OCC1CO1 | C12H12N2O3
reactant | ammonia | N | H3N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2,3-Epoxypropoxy)-indazole | O1C(COC2=C3C=NNC3=CC=C2)C1 | C10H10N2O2
